US06150373
A mixture of 190 mg (0.3 mmol) of 2-[3-[3-[3-(2,4-dichlorophenyl)-7-methanesulfonyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione and 1 ml of aniline was heated at 140° C. for 35 minutes and then cooled. The mixture was added to 40 ml of 2M aqueous hydrochloric acid and the precipitated product was filtered off, washed with 2M aqueous hydrochloric acid, then with water and finally dried to give 200 mg (100%) of 2-[3-[3-[3-(2,4-dichlorophenyl)-2-oxo-7-phenylamino-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione as a pale brown solid. [Mass spectrum (ESI) MH+ =649].

reactant | 2-[3-[3-[3-(2,4-dichlorophenyl)-7-methanesulfonyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione | 0.3 mmol, 190 mg | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C30H23Cl2N5O5S
reactant | aniline | 1 ml | NC1=CC=CC=C1 | C6H7N
solvent | hydrochloric acid | 2M, 40 ml | Cl | ClH
product | 2-[3-[3-[3-(2,4-dichlorophenyl)-2-oxo-7-phenylamino-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-propyl]-isoindole-1,3-dione | 200 mg, 100% | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=CC=C1)C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C35H26Cl2N6O3
